US04621084
The mixture of 5-(7-methylimidazo[1,2-a]pyridin-2-yl)-methyl-2-benzothiazolinone (1.9 g), 36% aqueous formaldehyde (1.07 g), 50% aqueous dimethylamine (1.16 g), acetic acid (772 mg) and methanol (10 ml) was stirred for 3 hours at 55°-60° C. The reaction mixture was concentrated under reduced pressure and the residue was dissolved in a mixture of lN hydrochloric acid (10 ml), water (10 ml) and ethyl acetate (30 ml). The separated aqueous layer was adjusted to pH 7 with 20% aqueous solution of potassium carbonate and the resultant aqueous mixture was extracted with ethyl acetate (50 ml×2). The extract was dried over magnesium sulfate and evaporated under reduced pressure to give a crystalline residue, which was re-crystallized from ethyl acetate to afford pale brown needles of 5-(3-dimethylaminomethyl-7-methylimidazo[1,2-a]pyridin-2-yl)-3-methyl-2-benzothiazolinone (1.56 g). mp. 167°-168° C.

reactant | 5-(7-methylimidazo[1,2-a]pyridin-2-yl)-methyl-2-benzothiazolinone | 1.9 g | CC1=CC=2N(C=C1)C=C(N2)C=2C=CC1=C(NC(S1)=O)C2C | C16H13N3OS
reactant | formaldehyde | 1.07 g | C=O | CH2O
reactant | dimethylamine | 1.16 g | CNC | C2H7N
reactant | acetic acid | 772 mg | C(C)(=O)O | C2H4O2
solvent | methanol | 10 ml | CO | CH4O
product | 5-(3-dimethylaminomethyl-7-methylimidazo[1,2-a]pyridin-2-yl)-3-methyl-2-benzothiazolinone | 1.56 g | CN(C)CC1=C(N=C2N1C=CC(=C2)C)C=2C=CC1=C(N(C(S1)=O)C)C2 | C19H20N4OS
